US04272543
A solution of 9.33 g. of bis[4,5-bis(4-methoxyphenyl)-2-imidazolyl]disulfide in 100 ml. of absolute hexamethylphosphoric triamide is combined with 1.584 g. of sodium hydride (50%, in white oil). The mixture is stirred for 30 minutes at room temperature, then combined with 3.42 g. of trimethylchlorosilane, and stirred for another 3 hours at room temperature. The mixture is blanketed with argon, and 30 ml. of an approximately 0.9 N cyclopropyllithium solution in ether is added dropwise under agitation. After this step, the mixture is stirred for another 4 hours at 60°. The thus-obtained solution is poured into 600 ml. of ice water and extracted with ether. The organic solution is washed with water, dried over sodium sulfate, and concentrated to dryness under vacuum. The residue is purified by column chromatography on 300 g. of silica gel with cyclohexane/ethyl acetate 1:1, thus obtaining 1.93 g. of 4,5-bis(4-methoxyphenyl)-2-(cyclopropylthio)imidazole, produced as an amorphous foam when the solvent is evaporated.

reactant | bis[4,5-bis(4-methoxyphenyl)-2-imidazolyl]disulfide | COC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)OC)SSC=1NC(=C(N1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C34H30N4O4S2
reactant | sodium hydride | [H-].[Na+]
reactant | trimethylchlorosilane | C[Si](Cl)(C)C | C3H9ClSi
reactant | cyclopropyllithium | approximately 0.9 N | C1(CC1)[Li]
solvent | ether | CCOCC | C4H10O
solvent | hexamethylphosphoric triamide | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 4,5-bis(4-methoxyphenyl)-2-(cyclopropylthio)imidazole | COC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)OC)SC1CC1 | C20H20N2O2S
